US07745641B2
In a similar manner to Step 1 of Example 16, 3-methoxybenzoylchloride (8.00 g, 46.9 mmol) was dissolved in dichloromethane (160 mL), and the solution was treated with cumylamine (7.40 mL, 51.6 mmol), triethylamine (9.80 mL, 70.4 mmol) and DMAP (573 mg, 4.69 mmol), followed by purification by slurry using diisopropylether to obtain 3-methoxy-N-(1-methyl-1-phenylethyl)benzamide (12.4 g, yield 98%).

reactant | 3-methoxybenzoylchloride | 46.9 mmol, 8.00 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | cumylamine | 51.6 mmol, 7.40 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | triethylamine | 70.4 mmol, 9.80 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
catalyst | DMAP | 4.69 mmol, 573 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-methoxy-N-(1-methyl-1-phenylethyl)benzamide | 12.4 g, yield 98% | COC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1 | C17H19NO2
